US08563565B2
(3) Synthesis of 5-[2-fluoro-4-(2-methoxy-3,5-dimethylpyridin-4-yl)phenyl]-1-[(S)tetrahydrofuran-3-yl]-1H-pyrazole-4-carboxamide
CDI (21.4 g) was added at one time to a solution of 5-[2-fluoro-4-(2-methoxy-3,5-dimethylpyridin-4-yl)phenyl]-1-[(S)-tetrahydrofuran-3-yl]-1H-pyrazole-4-carboxylic acid (38.7 g) in DMF (290 mL) at room temperature, and the mixture was stirred at room temperature for 95 minutes. 28% aqueous ammonia (95 mL) was added to the reaction mixture, and the mixture was stirred at room temperature for 35 minutes. 28% aqueous ammonia (95 mL) was added again to the reaction mixture, and the mixture was stirred at room temperature for 90 minutes. The reaction mixture was concentrated under reduced pressure. Chloroform (250 mL) and water (80 mL) were added to the resulting residue, and the organic layer was separated. The aqueous layer was re-extracted with chloroform (50 mL). The combined organic layers were sequentially washed with a saturated aqueous ammonium chloride solution (60 mL×3) and brine, dried over anhydrous magnesium sulfate and filtered. The filtrate was passed through a silica pad (NH-silica gel). The filtrate was concentrated under reduced pressure to give the title compound (37.2 g).

reactant | CDI | 21.4 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | 5-[2-fluoro-4-(2-methoxy-3,5-dimethylpyridin-4-yl)phenyl]-1-[(S)-tetrahydrofuran-3-yl]-1H-pyrazole-4-carboxylic acid | 38.7 g | FC1=C(C=CC(=C1)C1=C(C(=NC=C1C)OC)C)C1=C(C=NN1[C@@H]1COCC1)C(=O)O | C22H22FN3O4
reactant | ammonia | 95 mL | N | H3N
reactant | ammonia | 95 mL | N | H3N
solvent | DMF | 290 mL | CN(C)C=O | C3H7NO
product | 5-[2-fluoro-4-(2-methoxy-3,5-dimethylpyridin-4-yl)phenyl]-1-[(S)tetrahydrofuran-3-yl]-1H-pyrazole-4-carboxamide | 37.2 g | FC1=C(C=CC(=C1)C1=C(C(=NC=C1C)OC)C)C1=C(C=NN1[C@@H]1COCC1)C(=O)N | C22H23FN4O3
